US07723330B2
Step C: Preparation of 4-(5-chloro-2-methyl-4-nitrophenoxy)-3-iodo-1H-pyrazolo[3,4-b]pyridine:
To a stirred solution of 4-(5-chloro-2-methyl-4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine (21.0 g, 68.9 mmol) in DMF (100 mL) was added freshly ground (mortar/pestle) potassium hydroxide (11.6 g, 207 mmol) flakes followed immediately by iodine (26.2 g, 103 mmol) under N2 at 25° C. The dark reaction was heated to 50° C. for 6 hours. The mixture was quenched by addition of aqueous 10% NaHSO3 (75 mL). The suspension was further diluted by addition of water (100 mL) and filtered. The resulting precipitate washed with water, dried by toluene azeotrope, and then left under high vacuum for 2 days. The beige powder (26.5 g, 69%) was carried forward without further purification.

reactant | 4-(5-chloro-2-methyl-4-nitrophenoxy)-1H-pyrazolo[3,4-b]pyridine | 68.9 mmol, 21.0 g | ClC=1C(=CC(=C(OC2=C3C(=NC=C2)NN=C3)C1)C)[N+](=O)[O-] | C13H9ClN4O3
reactant | potassium hydroxide | 207 mmol, 11.6 g | [OH-].[K+]
reactant | iodine | 103 mmol, 26.2 g | II | I2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-(5-chloro-2-methyl-4-nitrophenoxy)-3-iodo-1H-pyrazolo[3,4-b]pyridine | ClC=1C(=CC(=C(OC2=C3C(=NC=C2)NN=C3I)C1)C)[N+](=O)[O-] | C13H8ClIN4O3
